US08349824B2
The product was prepared in the same manner as described in example 1c using 7-bromo-2-(6-fluoropyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyridine (1.44 g, 4.91 mmol) and tert-butyl carbamate (691 mg, 5.9 mmol) as starting materials. The reaction affords [2-(6-fluoro-pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-carbamic acid tert-butyl ester (526 mg, 32.5%), as off-white crystals. MS: m/z=330.0 (M+H+).

reactant | 7-bromo-2-(6-fluoropyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyridine | 4.91 mmol, 1.44 g | BrC1=CC=2N(C=C1)N=C(N2)C2=NC(=CC=C2)F | C11H6BrFN4
reactant | tert-butyl carbamate | 5.9 mmol, 691 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
product | [2-(6-fluoro-pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-carbamic acid tert-butyl ester | 526 mg, 32.5% | C(C)(C)(C)OC(NC1=CC=2N(C=C1)N=C(N2)C2=NC(=CC=C2)F)=O | C16H16FN5O2
